US09278983B2
A mixture of 2-chloro-5-trifluoromethylpyridine (12 g), 70% of aqueous ethylamine solution (16 ml), and NMP (7 ml) was stirred with heating at 70° C. for 1 day. Into the reaction mixture cooled to room temperature, water was poured, and then the precipitated solid was collected by filtration. The obtained solid was washed with water, and dried to give 6.3 g of N-ethyl-(5-trifluoromethylpyridin-2-yl)-amine.

reactant | 2-chloro-5-trifluoromethylpyridine | 12 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | ethylamine | 16 ml | C(C)N | C2H7N
reactant | NMP | 7 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-ethyl-(5-trifluoromethylpyridin-2-yl)-amine | 6.3 g | C(C)NC1=NC=C(C=C1)C(F)(F)F | C8H9F3N2
